US07915288B2
A solution of 1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butan-1-ol (117 mg, 0.33 mmol) in DMF (2 ml) is added to a suspension of NaH (67 mg, 60% dispersion in mineral oil, 1.7 mmol) in DMF (4 ml) at 0° C. After stirring for 45 min, EtI (0.26 ml, 3.3 mmol) is added slowly. After stirring for 10 min at 0° C., the mixture is allowed to warm to room temperature and the stirring is continued for 1 h. Water is added and the mixture is extracted with Et2O. The combined extracts are washed with saturated brine, dried over Na2SO4, and concentrated to give the desired ether that is dissolved in DCM (12 ml). After cooling to −78° C., BBr3 (3.2 ml of 1 M solution in DCM, 3.2 mmol) is added dropwise and the mixture is allowed to warm to room temperature. After stirring for 1 h, MeOH (3 ml) and 1N—HCl (50 uL) are added carefully. After heating for 10 min at 80° C., the mixture is cooled and then basified with 1N—NaOH to pH 10. The resulting mixture is extracted with DCM and the combined extracts are washed with saturated brine. Drying over Na2SO4 and concentration are followed by flash chromatography to give 120 mg of 3-[4-(1-bromo-butyl)-isoquinolin-1-yl]-2,4-dimethyl-phenol as a yellow foam.

reactant | 1-[1-(3-methoxy-2,6-dimethyl-phenyl)-isoquinolin-4-yl]-butan-1-ol | 0.33 mmol, 117 mg | COC=1C(=C(C(=CC1)C)C1=NC=C(C2=CC=CC=C12)C(CCC)O)C | C22H25NO2
reactant | NaH | 1.7 mmol, 67 mg | [H-].[Na+]
reactant | EtI | 3.3 mmol, 0.26 ml | C(C)I | C2H5I
reactant | BBr3 | 3.2 mmol, 1 M, 3.2 ml | B(Br)(Br)Br | BBr3
reactant | HCl | 50 uL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 ml | CO | CH4O
solvent | Water | O | H2O
product | 3-[4-(1-bromo-butyl)-isoquinolin-1-yl]-2,4-dimethyl-phenol | 120 mg | BrC(CCC)C1=CN=C(C2=CC=CC=C12)C=1C(=C(C=CC1C)O)C | C21H22BrNO
